US07067517B2
Methyl-phenyl-carbamic acid 4-(butyl-methyl-carbamoyl)-phenyl ester
The title product was prepared from 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester and n-butyl-methyl-amine. The crude product was subjected to preparative HPLC (20%, oil). HPLC-MS: m/z=341.2 (M+1); Rt: 3.96 min.

reactant | 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)=O | C19H16N2O6
reactant | n-butyl-methyl-amine | C(CCC)NC | C5H13N
product | Methyl-phenyl-carbamic acid 4-(butyl-methyl-carbamoyl)-phenyl ester | C(CCC)N(C(=O)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)C | C20H24N2O3
